US08865682B2
A mixture of (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-6-fluoro-1,3-dihydro-2H-indol-2-one (95 mg, 0.29 mmol) and 1-(2-hydroxyethyl)piperazine (0.40 mL, 3.3 mmol) in 6 mL of DMF was heated in 100° C. bath for 2 hours. The mixture was cooled, diluted with ethyl acetate (60 mL), washed with brine (3×50 mL), and concentrated to give the crude product, which was purified by silica gel chromatography with 5-20% methanol in chloroform to give (3E)-6-fluoro-3-{4-[4-(2-hydroxyethyl)piperazin-1-yl]-5,5-dimethylfuran-2(5H)-ylidene}-1,3-dihydro-2H-indol-2-one as a grey solid. Yield: 73 mg, 67%.

reactant | (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-6-fluoro-1,3-dihydro-2H-indol-2-one | 0.29 mmol, 95 mg | BrC1=C/C(/OC1(C)C)=C/1\C(NC2=CC(=CC=C12)F)=O | C14H11BrFNO2
reactant | 1-(2-hydroxyethyl)piperazine | 3.3 mmol, 0.40 mL | OCCN1CCNCC1 | C6H14N2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | (3E)-6-fluoro-3-{4-[4-(2-hydroxyethyl)piperazin-1-yl]-5,5-dimethylfuran-2(5H)-ylidene}-1,3-dihydro-2H-indol-2-one | FC1=CC=C2\C(\C(NC2=C1)=O)=C\1/OC(C(=C1)N1CCN(CC1)CCO)(C)C | C20H24FN3O3
